US07781435B2
(S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid {(S)-1-[2-(2,2-dimethyl-propylamino)-1-phenyl-ethyl]-1H-imidazol-4-yl}-amide
(S)-2,2-dimethyl-N-(2-(4-nitro-1H-imidazol-1-yl)-2-phenylethyl)propan-1-amine was reduced and coupled with (S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) to afford the title compound: MS 538 m/z (M+1).

reactant | (S)-2,2-dimethyl-N-(2-(4-nitro-1H-imidazol-1-yl)-2-phenylethyl)propan-1-amine | CC(CNC[C@H](C1=CC=CC=C1)N1C=NC(=C1)[N+](=O)[O-])(C)C | C16H22N4O2
reactant | (S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid | FC=1C=C2CCC(CC2=C(C1)F)N[C@H](C(=O)O)CCC | C15H19F2NO2
product | (S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid {(S)-1-[2-(2,2-dimethyl-propylamino)-1-phenyl-ethyl]-1H-imidazol-4-yl}-amide | CC(CNC[C@H](C1=CC=CC=C1)N1C=NC(=C1)NC([C@H](CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O)(C)C | C31H41F2N5O
